US07238696B2
Preparation of 5-Chloro-3[(4-fluorophenyl)sulfonyl]-7-(4-methylpiperazin-1-yl)-1H-indazole
A solution of NaNO2 (22.0 mg) in water at 0° C. is treated dropwise with a solution of 4-chloro-2-{[(4-fluorophenyl)sulfonyl]methyl}-6-(4-methylpiperazin-1-yl)aniline (102.2 mg, 0.25 mmol) in 1M HCl, allowed to warm to room temperature over a 2 h period, treated with saturated Na2CO3 to pH>10 and filtered. The filtercake is washed with water and dried in vacuo to give the title compound, identified by mass spectral and NMR analyses.

reactant | NaNO2 | 22.0 mg | N(=O)[O-].[Na+]
reactant | 4-chloro-2-{[(4-fluorophenyl)sulfonyl]methyl}-6-(4-methylpiperazin-1-yl)aniline | 0.25 mmol, 102.2 mg | ClC1=CC(=C(N)C(=C1)N1CCN(CC1)C)CS(=O)(=O)C1=CC=C(C=C1)F | C18H21ClFN3O2S
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | water | O | H2O
solvent | HCl | 1M | Cl | ClH
product | 5-Chloro-3[(4-fluorophenyl)sulfonyl]-7-(4-methylpiperazin-1-yl)-1H-indazole | ClC=1C=C2C(=NNC2=C(C1)N1CCN(CC1)C)S(=O)(=O)C1=CC=C(C=C1)F | C18H18ClFN4O2S
